US04066438
4-Amino-3,5-dichloro-2-(2-hydroxyethoxy)pyridine
A mixture of 200 grams (1.1 mole) of 4-amino-2,3,5-trichloropyridine in 500 milliliters of ethylene glycol was heated at 108° C., with agitation, until a solution was obtained. To this solution was added over a 20-minute period, while the temperature was raised to 123° C., a solution of 70 grams (1.25 mole) of potassium hydroxide dissolved in 300 milliliters of ethylene glycol. The temperature was raised to 150°-151° C. and agitation was maintained for 2 hours. The reaction mixture was cooled and filtered under reduced pressure. The filtrate was diluted with 1500 milliliters of cold water and extracted with methylene chloride. The solvent was removed by evaporation under reduced pressure. The liquid residue which remained was crystallized from hexane and dissolved in hot chloroform. The solution was cooled and the 4-amino-3,5-dichloro-2-(2-hydroxyethoxy)pyridine product was recovered by filtration under reduced pressure. The purified product was recovered in a yield of 75 grams which melted at 77.5°- 81° C.

reactant | 4-amino-2,3,5-trichloropyridine | 1.1 mole, 200 grams | NC1=C(C(=NC=C1Cl)Cl)Cl | C5H3Cl3N2
reactant | potassium hydroxide | 1.25 mole, 70 grams | [OH-].[K+]
reactant | ethylene glycol | 500 milliliters | C(CO)O | C2H6O2
reactant | ethylene glycol | 300 milliliters | C(CO)O | C2H6O2
product | 4-Amino-3,5-dichloro-2-(2-hydroxyethoxy)pyridine | NC1=C(C(=NC=C1Cl)OCCO)Cl | C7H8Cl2N2O2
